US07795267B2
N-Benzoyl-tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide
Benzamide (1.0 g, 8.3 mmol) was dissolved in 1,2-dichloroethane (5 mL), oxalyl dichloride (1.2 g, 9.1 mmol) was added thereto, and the mixture was stirred at 90° C. for 30 hours. The reaction solution was concentrated under reduced pressure. Toluene (4 mL) was added thereto and dissolved. Hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (0.20 g, 0.68 mmol) was added thereto, and the mixture was stirred at 60° C. for 6 hours. The reaction solution was concentrated under reduced pressure to a half its original volume, and the precipitated crystals were filtered off. The residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:1), and toluene (4 mL) was added thereto. The precipitated crystals were filtered off, and the filtrate was concentrated. The residue was further purified with silica gel column chromatography (hexane:ethyl acetate=1:1) and crystallized from diisopropyl ether to obtain the title compound (70 mg, yield 23%).

reactant | Benzamide | 8.3 mmol, 1.0 g | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | oxalyl dichloride | 9.1 mmol, 1.2 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.68 mmol, 0.20 g | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | N-Benzoyl-tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide | 70 mg, yield 23% | C(C1=CC=CC=C1)(=O)NC(=O)N1CC2N(CC1)C(OC2(C2=CC=CC=C2)C2=CC=CC=C2)=O | C26H23N3O4
